US09238644B2
(c) 1-(3-Ethynylphenyl)cyclopropanecarboxamide (A60)
A 1.0 M TBAF solution in THF (10.5 mL, 10.5 mmol) was added to a solution of 1-(3-((triisopropylsilyl)ethynyl)phenyl)cyclopropanecarboxamide A59 (1.20 g, 3.50 mmol) in THF (50 mL) and stirred for 15 minutes. The mixture was diluted with water (200 mL) and EtOAc (200 mL) before the organic fraction was separated and washed with 0.5 M citric acid solution (200 mL), water (200 mL), brine (50 mL) and dried (Na2SO4). The volatiles were removed in vacuo and the resulting solid was suspended in cyclohexane (50 mL) and sonicated for 10 minutes. The solid was collected by filtration and dried to give the title compound A60 as a tan solid (386 mg, 59%). LCMS-A: rt 5.635 min; m/z 186.2 [M+H]+.

reactant | TBAF | 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 1-(3-((triisopropylsilyl)ethynyl)phenyl)cyclopropanecarboxamide | C(C)(C)[Si](C(C)C)(C(C)C)C#CC=1C=C(C=CC1)C1(CC1)C(=O)N | C21H31NOSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | THF | 10.5 mmol, 10.5 mL | C1CCOC1 | C4H8O
product | 1-(3-Ethynylphenyl)cyclopropanecarboxamide | C(#C)C=1C=C(C=CC1)C1(CC1)C(=O)N | C12H11NO
